US06071925
(RS)-8-(6-Chloro-thiochroman-4-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, m.p. 164-166° C. dec. and MS: m/e=414.2 (M+H+) was prepared in accordance with the general method of example 11 from 6-chloro-2,3-dihydro-4H-1-benzothiopyran-4-one oxime and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 6-chloro-2,3-dihydro-4H-1-benzothiopyran-4-one oxime | ClC=1C=CC2=C(C(CCS2)=NO)C1 | C9H8ClNOS
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | (RS)-8-(6-Chloro-thiochroman-4-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | ClC=1C=C2C(CCSC2=CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C22H24ClN3OS
